US04330461
To a stirred, refluxing mixture of 5.00 g of 2,4,6-trichloropyrimidine in 100 ml of o-dichlorobenzene under nitrogen was added dropwise 26.00 g of methyl diphenylphosphinite. After the addition was completed, the mixture was refluxed for 6.5 hours and then allowed to stand overnight at room temperature. The next day a small amount of the solvent was removed by boiling, and the solution was allowed to stand again overnight. The next day the resulting solid was separated by filtration, washed twice with benzene and three times with hexane, recrystallized from 650 ml of toluene, and dried at 100° C./0.1 mm (13 Pa) to give 11.35 g of 2,4,6-tris(diphenylphosphinyl)pyrimidine as a white solid, mp 235°-236° C. Anal. Calcd for C40H31N2O3P3 : C, 70.59; H, 4.59; N, 4.12; P, 13.65. Found: C, 70.72; H, 4.90; N, 3.92; P, 13.61.

reactant | 2,4,6-trichloropyrimidine | 5.00 g | ClC1=NC(=CC(=N1)Cl)Cl | C4HCl3N2
reactant | methyl diphenylphosphinite | 26.00 g | C1(=CC=CC=C1)P(OC)C1=CC=CC=C1 | C13H13OP
solvent | o-dichlorobenzene | 100 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 2,4,6-tris(diphenylphosphinyl)pyrimidine | 11.35 g | C1(=CC=CC=C1)P(=O)(C1=NC(=CC(=N1)P(=O)(C1=CC=CC=C1)C1=CC=CC=C1)P(=O)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C40H31N2O3P3
